US06005137
A mixture of 98.4 g pentafluorophenol, 0.1 g sodium saccharin, and 120 mL hexamethyldisilazane was stirred at 73° C. for 17 hours after the initial vigorous reaction. Distillation at 160-61° C. using a 15 cm Vigreux column yielded 119.3 g, 87% of pentafluorophenoxytrimethylsilane, C6F5OSi(CH3)3.

reactant | pentafluorophenol | 98.4 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | sodium saccharin | 0.1 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12.[Na]
reactant | hexamethyldisilazane | 120 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | pentafluorophenoxytrimethylsilane | 119.3 g, 87% | FC1=C(C(=C(C(=C1O[Si](C)(C)C)F)F)F)F | C9H9F5OSi
